US04066752
Dissolve 5.75 gm. of N-hydroxysuccinimide in 200 ml. ethyl acetate and 4 gm. of pyridine; cool the resultant solution to 0° C. To this solution add 10.6 gm. 2,2,2-trichloroethylchloroformate dropwise over a period of 1.5 hours. Filter the resultant mixture and evaporate the filtrate to dryness. Wash the thereby formed needles with hexane to obtain N-(2,2,2-trichloroethoxycarbonyloxy) succinimide, mp. 98°-101° C; νmax (CHCl3) 1825, 1790, 1750, 1185, 826 cm.-1, δ(CDCl3) 2.85 (4H,s,--CO (CH2)2CO--) and 4.90 ppm. (2H,s,--COOCH2CCl3).

reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 2,2,2-trichloroethylchloroformate | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(2,2,2-trichloroethoxycarbonyloxy) succinimide | ClC(COC(=O)ON1C(CCC1=O)=O)(Cl)Cl | C7H6Cl3NO5
